US04205166
To a mixture of 5-aminomethyl-1,3,4-thiadiazole-2-thiol hydrochloride (5.5 g) in water (50 ml), dioxane (50 ml) and triethylamine (15 ml) was added t-butoxycarbonyl azide (5.6 g) and the mixture was stirred for 24 hours at 40° to 45° C. After the reaction was over, the dioxane was distilled off under reduced pressure. The residue was adjusted to pH2 with 10% hydrochloric acid and extracted twice with ethyl acetate. The extract was washed with a saturated aqueous solution of sodium chloride and then dried over magnesium sulfate and then evaporated to dryness to give 5-t-butoxycarbonylaminomethyl-1,3,4-thiadiazole-2-thiol (4.83 g). m.p. 144° to 146° C.

reactant | 5-aminomethyl-1,3,4-thiadiazole-2-thiol hydrochloride | 5.5 g | Cl.NCC1=NN=C(S1)S
reactant | t-butoxycarbonyl azide | 5.6 g | C(C)(C)(C)OC(=O)N=[N+]=[N-] | C5H9N3O2
solvent | water | 50 ml | O | H2O
solvent | dioxane | 50 ml | O1CCOCC1 | C4H8O2
solvent | triethylamine | 15 ml | C(C)N(CC)CC | C6H15N
product | 5-t-butoxycarbonylaminomethyl-1,3,4-thiadiazole-2-thiol | 4.83 g | C(C)(C)(C)OC(=O)NCC1=NN=C(S1)S | C8H13N3O2S2
